US05428037
A solution of 4-hydroxymethyl-2-(4-methylphenyl)-5-methyl-1,3-oxazole (3 g) in 30 ml of dichloromethane was cooled to 0° C., and thionyl chloride (1.75 g) added dropwise. The reaction was stirred for 1 hour at room temperature, then washed twice with dilute sodium bicarbonate solution, the organic layer separated, dried over sodium sulfate, and the solvent evaporated under reduced pressure, to yield 4-chloromethyl-2-(4-methylphenyl)-5-methyl-l,3-oxazole, which was used in the next reaction without further purification.

reactant | 4-hydroxymethyl-2-(4-methylphenyl)-5-methyl-1,3-oxazole | 3 g | OCC=1N=C(OC1C)C1=CC=C(C=C1)C | C12H13NO2
reactant | thionyl chloride | 1.75 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-chloromethyl-2-(4-methylphenyl)-5-methyl-l,3-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C | C12H12ClNO
